US05488055
A mixture of 2-chloro-5-(methylthio)benzoic acid (8.8 g, 0.043 mol), DMF (100 mL), 5-amino-1-ethylpyrazole (4.8 g, 0.043 mol), K2CO3 (5.94 g, 0.043 mol) and Cu(OAc)2 (0.5 g ) was refluxed overnight. The reaction mixture was cooled to room temperature, poured into water and acidified with acetic acid to a pH of about 4-5. The mixture was extracted with CH2Cl2 and then the CH2Cl2 layer was evaporated to afford 4.5 g of N-(1-ethylpyrazol-5-yl)-5-(methylthio)anthranilic acid.

reactant | 2-chloro-5-(methylthio)benzoic acid | 0.043 mol, 8.8 g | ClC1=C(C(=O)O)C=C(C=C1)SC | C8H7ClO2S
reactant | DMF | 100 mL | CN(C)C=O | C3H7NO
reactant | 5-amino-1-ethylpyrazole | 0.043 mol, 4.8 g | NC1=CC=NN1CC | C5H9N3
reactant | K2CO3 | 0.043 mol, 5.94 g | C(=O)([O-])[O-].[K+].[K+]
catalyst | Cu(OAc)2 | 0.5 g | CC(=O)[O-].CC(=O)[O-].[Cu+2]
solvent | acetic acid | C(C)(=O)O | C2H4O2
solvent | water | O | H2O
product | N-(1-ethylpyrazol-5-yl)-5-(methylthio)anthranilic acid | 4.5 g | C(C)N1N=CC=C1NC=1C(C(=O)O)=CC(=CC1)SC | C13H15N3O2S
